US08242157B2
To a solution of 5-methyl-2-nitro-phenylamine (3.04 g, 20.0 mmol) in anhydrous DMF (20 mL) at 0° C. was portionwise added 95% NaH (528 mg, 22.0 mmol) and stirred for 10 min. A solution of iodomethane (1.25 mL, 20.0 mmol) in anhydrous DMF (10 mL) was then added. The ice bath was removed and the resulting mixture was stirred at room temperature overnight. The resulting mixture was then diluted with water, and the resulting solid was collected by filtration, washed with H2O and hexanes to yield methyl-(5-methyl-2-nitro-phenyl)-amine MS 167 (M+1)+.

reactant | 5-methyl-2-nitro-phenylamine | 20.0 mmol, 3.04 g | CC=1C=CC(=C(C1)N)[N+](=O)[O-] | C7H8N2O2
reactant | NaH | 22.0 mmol, 528 mg | [H-].[Na+]
reactant | iodomethane | 20.0 mmol, 1.25 mL | IC | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl-(5-methyl-2-nitro-phenyl)-amine | CNC1=C(C=CC(=C1)C)[N+](=O)[O-] | C8H10N2O2
